US04908363
6.47 g of 1-amino-2-propylimidazole hydrochloride are dissolved in 300 ml of ethanol, and 3.5 g of 4-hydroxy-3,5-di-tert.-butylbenzaldehyde are added. The mixture is stirred at room temperature for 3 hours and the solution obtained is evaporated. The residue is treated with 150 ml of water and 150 ml of methylene chloride, and saturated sodium bicarbonate solution is added while stirring up to a neutral reaction (pH=7). The methylene chloride phase is separated. The aqueous phase is extracted once with 50 ml of methylene chloride. The methylene chloride solutions are combined, dried and evaporated. The residue is triturated with ether, and the solid is removed by filtration and dried at 60° in a vacuum. There is obtained 1-(4-hydroxy-3,5-di-tert.-butylbenzylideneamino)-2-propylimidazole of m.p. 160°-161°.

reactant | 1-amino-2-propylimidazole hydrochloride | 6.47 g | Cl.NN1C(=NC=C1)CCC
reactant | 4-hydroxy-3,5-di-tert.-butylbenzaldehyde | 3.5 g | OC1=C(C=C(C=O)C=C1C(C)(C)C)C(C)(C)C | C15H22O2
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 1-(4-hydroxy-3,5-di-tert.-butylbenzylideneamino)-2-propylimidazole | OC1=C(C=C(C=NN2C(=NC=C2)CCC)C=C1C(C)(C)C)C(C)(C)C | C21H31N3O
